US05872118
i) Preparation of (E)-2-(4-chloro-1-indanylidene) acetyl Chloride
A suspension of (E)-2-(4-chloro-1-indanylidene)acetic acid (5.5 g, 0.03 mol) in a mixture of dimethylformamide: dichloromethane (5 drops: 50 mL) was treated with oxalyl chloride (6.6 g, 0.05 mol) and allowed to stir at room temperature for 18 h. The resulting solution was concentrated in vacuo and the residue used without further purification.

reactant | (E)-2-(4-chloro-1-indanylidene)acetic acid | 0.03 mol, 5.5 g | ClC1=C2CC/C(/C2=CC=C1)=C\C(=O)O | C11H9ClO2
reactant | oxalyl chloride | 0.05 mol, 6.6 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | dichloromethane | 5 drops | ClCCl | CH2Cl2
product | (E)-2-(4-chloro-1-indanylidene) acetyl Chloride | ClC1=C2CC/C(/C2=CC=C1)=C\C(=O)Cl | C11H8Cl2O
